US05622954
Under a nitrogen atmosphere, a stirred mixture of 25.2 grams (0.12 mole) of 3-methyl-3-(4-trifluoromethylphenyl)-1-butyne and 12.7 mL (0.12 mole) of 1,3,2-benzodioxaborole was warmed to 70° C. where it stirred for six hours. The reaction mixture was then cooled and poured slowly into 500 mL of ice-water while flushing with nitrogen. The mixture was then allowed to warm to ambient temperature where it stirred for about 18 hours. The mixture was cooled in an ice-bath, and the resultant solid was collected by filtration. The solid was washed with water and then dissolved in diethyl ether. The solution was washed with 100 mL of an aqueous solution saturated with sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and concentrated under reduced pressure to a residual solid. The solid was added under vacuum without heat, yielding 27.6 grams of trans-3-methyl-3-(4-trifluoromethylphenyl)-1-butenylboronic acid.

reactant | 3-methyl-3-(4-trifluoromethylphenyl)-1-butyne | 0.12 mole, 25.2 grams | CC(C#C)(C)C1=CC=C(C=C1)C(F)(F)F | C12H11F3
reactant | 1,3,2-benzodioxaborole | 0.12 mole, 12.7 mL | O1BOC2=C1C=CC=C2 | C6H5BO2
product | trans-3-methyl-3-(4-trifluoromethylphenyl)-1-butenylboronic acid | 27.6 grams | CC(/C=C/B(O)O)(C)C1=CC=C(C=C1)C(F)(F)F | C12H14BF3O2
